US05767317
2,2'-Bis[bis(3-fluorophenyl)phosphinylmethyl]-1,1'-binaphthyl
While stirring under nitrogen, 8.8 g (33 mmol) of ethyl bis(3-fluorophenyl)phosphinite are slowly added dropwise to a solution of 7.27 g (16.6 mmol) of 2,2'-bis(bromo-methyl)-1,1'-binaphthyl in 40 ml of o-xylene, which solution has been heated to 120° C., with ethyl bromide distilling off. After the end of the addition, the mixture is heated under reflux for a further two hours and is then cooled to 0° C. The solid is filtered off, washed with cold o-xylene and dried in vacuo. This gives 11.5 g (91 %) of colorless crystals having a melting point of 280°-284° C.

reactant | ethyl bis(3-fluorophenyl)phosphinite | 33 mmol, 8.8 g | FC=1C=C(C=CC1)P(OCC)C1=CC(=CC=C1)F | C14H13F2OP
reactant | 2,2'-bis(bromo-methyl)-1,1'-binaphthyl | 16.6 mmol, 7.27 g | BrCC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CBr | C22H16Br2
reactant | ethyl bromide | C(C)Br | C2H5Br
solvent | o-xylene | 40 ml | CC=1C=CC=CC1C | C8H10
product | 2,2'-Bis[bis(3-fluorophenyl)phosphinylmethyl]-1,1'-binaphthyl | FC=1C=C(C=CC1)P(=O)(C1=CC(=CC=C1)F)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CP(=O)(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F | C46H32F4O2P2
